US04052387
Methyl 3-methyl-2-(2-bromosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate
The azetidinone sulfinyl bromide from above was dissolved in 20 ml. of methylene chloride; 0.6 ml. of stannic chloride was added to the solution. After 45 minutes at room temperature the reaction mixture was washed with water and brine, dried over anhydrous MgSO4, and evaporated in vacuo to dryness to provide 1.15 g. of methyl 7-phthalimido-3-methylenecepham-4-carboxylate-1-oxide (a mixture of R- and S-sulfoxide isomers). For the predominant isomer: nmr (CDCl3) δ3.64, 4.20 (ABq, 2, J=13.0 Hz, C2 --H), 3.84 (s, 3, COOCH3), 4.90 (d, 1, J=4.0 Hz, β-lactam H), 5.3-5.7 (m, 3), 5.97 (d, 1, J=4.0 Hz, β-lactam H), and 7.84 (bs, 4, ArH).

reactant | azetidinone sulfinyl bromide | N1(C(CC1)=O)S(=O)Br | C3H4BrNO2S
reactant | methyl 7-phthalimido-3-methylenecepham-4-carboxylate-1-oxide | C1(C=2C(C(N1C1[C@@H]3N(C(C(CS3=O)=C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H14N2O6S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 3-methyl-2-(2-bromosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)Br)=C | C17H15BrN2O6S
